US06448263B1
A. 4-Oxo-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester
To a solution of 4-oxo-piperidine-3-carboxylic acid ethyl ester hydrochloride (100 g, 0.482 mol) in IPE (725 mL) and water (360 mL) was slowly added TEA (63.5 g, 0.627 mol), followed by (Boc)2O (115.7 g, 0.53 mol). The mixture was stirred overnight under nitrogen. The organic phase was separated and washed with water and dried over Na2SO4, and concentrated in vacuo to afford the desired product as crystals (142.9 g, yield 109%, containing a small amount of IPE).

reactant | 4-oxo-piperidine-3-carboxylic acid ethyl ester hydrochloride | 0.482 mol, 100 g | Cl.C(C)OC(=O)C1CNCCC1=O
reactant | (Boc)2O | 0.53 mol, 115.7 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 360 mL | O | H2O
product | 4-Oxo-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | yield 109% | C(C)OC(=O)C1CN(CCC1=O)C(=O)OC(C)(C)C | C13H21NO5
